### PR TITLE
[Merged by Bors] - feat: IsNormalClosure predicate

### PR DESCRIPTION
**Pull request by alreadydone**
Main changes are to the file NormalClosure:

+ Introduce predicate `IsNormalClosure` to characterize normal closures L/F of a field extension K/F by the conditions that every minimal polynomial of an element of K over F splits in L, and that L is generated by roots of such polynomials. (When K/F is not necessarily algebraic, the conditions actually says L/F is a normal closure of the algebraic closure of F in K over F.

+ `IsNormalClosure.normal`: a normal closure is always normal.

+ `isNormalClosure_iff `: if K/F is algebraic, the "generated by roots" condition in IsNormalClosure can be replaced by "generated by images of embeddings". To prove it, we split out the two inclusions in `restrictScalars_eq_iSup_adjoin` and golf its proof. `restrictScalars_eq_iSup_adjoin` is renamed to `normalClosure_eq_iSup_adjoin` as it has nothing to do with `restrictScalars`.

+ `IsNormalClosure.lift`: a normal closure of K/F embeds into any L/F such that the minpolys of K/F splits in L/F.

+ `IsNormalClosure.equiv`: normal closures are unique up to F-algebra isomorphisms.

+ `isNormalClosure_normalClosure`: `normalClosure F K L` is a valid normal closure if K/F is algebraic and all minpolys of K/F splits in L/F; in particular, if there is at least one F-embedding of K into L, and L/F is normal.

+ `Algebra.IsAlgebraic.cardinal_mk_algHom_le_of_splits`: if every minpoly of `K/F` splits in `L/F`, then `L` is maximal w.r.t. `F`-embeddings of `K`, in the sense that `K →ₐ[F] L` achieves maximal cardinality.

In the file Normal:

+ `splits_of_mem_adjoin`: If a set of algebraic elements in a field extension `K/F` have minimal polynomials that split in another extension `L/F`, then all minimal polynomials in the intermediate field generated by the set also split in `L/F`. This is in preparation for connecting `IsNormalClosure` and `IsSplittingField`.

In the file IntermediateField:

+ Add `comap` and show it forms a Galois connection with `map`.

In the file FieldTheory/Adjoin:

+ Add `map_sup/iSup` lemmas that follow from the Galois connection, plus an additional convenience lemma.

In the file RingTheory/Algebraic: add a lemma `AlgHom.isAlgebraic_of_injective`.

Co-authored-by: Jz Pan <acme_pjz@hotmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Adjoin.lean [hunk 1]
```diff
@@ -581,19 +590,27 @@ theorem adjoin_simple_toSubalgebra_of_integral (hα : IsIntegral F α) :
...
+theorem _root_.isSplittingField_iff_intermediateField {p : F[X]} :
+    p.IsSplittingField F E ↔ p.Splits (algebraMap F E) ∧ adjoin F (p.rootSet E) = ⊤ := by
+  rw [← toSubalgebra_injective.eq_iff,
+      adjoin_algebraic_toSubalgebra fun _ ↦ isAlgebraic_of_mem_rootSet]
+  exact ⟨fun ⟨spl, adj⟩ ↦ ⟨spl, adj⟩, fun ⟨spl, adj⟩ ↦ ⟨spl, adj⟩⟩
+
+-- Note: p.Splits (algebraMap F E) also works
 theorem isSplittingField_iff {p : F[X]} {K : IntermediateField F E} :
     p.IsSplittingField F K ↔ p.Splits (algebraMap F K) ∧ K = adjoin F (p.rootSet E) := by
   suffices _ → (Algebra.adjoin F (p.rootSet K) = ⊤ ↔ K = adjoin F (p.rootSet E)) by
```
Comment (tb65536) [inline Mathlib/FieldTheory/Adjoin.lean:603]: Is it possible to use your new lemma to golf this proof?

File: Mathlib/FieldTheory/Normal.lean [hunk 2]
```diff
@@ -177,6 +177,22 @@ instance normal_iSup {ι : Type*} (t : ι → IntermediateField F K) [h : ∀ i,
...
+    (hx : x ∈ adjoin F S) : (minpoly F x).Splits (algebraMap F L) := by
+  let E : IntermediateField F L := ⨆ x : S, adjoin F ((minpoly F x.val).rootSet L)
+  have normal : Normal F E := normal_iSup (h := fun x ↦
+    Normal.of_isSplittingField (hFEp := adjoin_rootSet_isSplittingField (splits x x.2).2))
+  have : ∀ x ∈ S, (minpoly F x).Splits (algebraMap F E) := fun x hx ↦ splits_of_splits
+    (splits x hx).2 fun y hy ↦ (le_iSup _ ⟨x, hx⟩ : _ ≤ E) (subset_adjoin F _ <| by exact hy)
+  obtain ⟨φ⟩ := nonempty_algHom_adjoin_of_splits fun x hx ↦ ⟨(splits x hx).1, this x hx⟩
+  convert splits_comp_of_splits _ E.val.toRingHom (normal.splits <| φ ⟨x, hx⟩)
+  rw [minpoly.algHom_eq _ φ.injective, ← minpoly.algHom_eq _ (adjoin F S).val.injective]
+  rfl
```
Comment (tb65536) [inline Mathlib/FieldTheory/Normal.lean:194]: I haven't looked at this super closely, but it feels like this should all be easier. For instance, going from `(minpoly F x).Splits (algebraMap F E)` to `(minpoly F x).Splits (algebraMap F L)` feels like it should be a one-liner. Are there missing lemmas in the library perhaps?

File: Mathlib/FieldTheory/NormalClosure.lean [hunk 3]
```diff
@@ -10,19 +10,35 @@ import Mathlib.Order.Closure
...
 
-open BigOperators IntermediateField IsScalarTower Polynomial
+universe u v w
 
-variable (F K L : Type*) [Field F] [Field K] [Field L] [Algebra F K] [Algebra F L] [Algebra K L]
-  [IsScalarTower F K L]
+open BigOperators IntermediateField IsScalarTower Polynomial
 
-/-- The normal closure of `K` in `L`. -/
+variable (F : Type*) (K : Type w) (L : Type u)
```
Comment (tb65536) [inline Mathlib/FieldTheory/NormalClosure.lean:27]: Is there a reason for preferring explicit universes here?

File: Mathlib/FieldTheory/NormalClosure.lean [hunk 4]
```diff
@@ -102,13 +191,37 @@ lemma restrictScalars_eq :
...
 end normalClosure
 
+variable {F K L}
+
+open Cardinal in
+/-- An extension `L/F` in which every minimal polynomial of `K/F` splits is maximal with respect
+  to `F`-embeddings of `K`, in the sense that `K →ₐ[F] L` achieves maximal cardinality. -/
+theorem Algebra.IsAlgebraic.cardinal_mk_algHom_le_of_splits (alg : IsAlgebraic F K)
+    (h : ∀ x : K, (minpoly F x).Splits (algebraMap F L)) (L' : Type v) [Field L'] [Algebra F L'] :
+    lift.{u} #(K →ₐ[F] L') ≤ lift.{v} #(K →ₐ[F] L) := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/NormalClosure.lean:201]: It seems like the proof constructs an inclusion. Would it make more sense to just state that there is an inclusion rather than state this result in terms of cardinals?

File: Mathlib/FieldTheory/Normal.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Normal.lean:194]: > going from `(minpoly F x).Splits (algebraMap F E)` to `(minpoly F x).Splits (algebraMap F L)` feels like it should be a one-liner.

I think it's [Polynomial.splits_comp_of_splits](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Splits.html#Polynomial.splits_comp_of_splits)

File: Mathlib/FieldTheory/NormalClosure.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/NormalClosure.lean]: The universes are for the statement of `cardinal_mk_algHom_le_of_splits` but I guess I'll replace that with an Embedding.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Adjoin.lean:603]: It doesn't quite work because [Polynomial.adjoin_rootSet_eq_range](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Splits.html#Polynomial.adjoin_rootSet_eq_range) is about Subalgebras not IntermediateFields. I wonder whether we should change IsSplittingField to use IntermediateField.adjoin ...

File: Mathlib/FieldTheory/Normal.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Normal.lean:194]: As @acmepjz said, if the two `minpoly F x` were defeq then `convert splits_comp_of_splits` would close the goal. However, the `normal.splits` only guarantees the splitting of minpolys of elements in E; since `adjoin F S` embeds in `E` (via `φ`), the minpolys of elements in `adjoin F S` also splits because they are equal to the minpolys of the images of the elements in `E`. This is what `rw [minpoly.algHom_eq _ φ.injective]` does, and then we need another rewrite to go between `adjoin F S` and `K`.
The whole proof is a bit nontrivial and uses `Normal.of_isSplittingField` essentially.

File: Mathlib/FieldTheory/NormalClosure.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/NormalClosure.lean]: switched to embedding

**Review by alreadydone — COMMENTED** [review]
Thanks for the review!

File: Mathlib/RingTheory/Algebraic.lean [hunk 5]
```diff
@@ -149,10 +149,17 @@ protected theorem IsAlgebraic.algHom {B} [Ring B] [Algebra R B] (f : A →ₐ[R]
   ⟨p, hp, by rw [aeval_algHom, f.comp_apply, ha, map_zero]⟩
 #align is_algebraic_alg_hom_of_is_algebraic IsAlgebraic.algHom
 
+theorem AlgHom.isAlgebraic_of_injective {B} [Ring B] [Algebra R B] (f : A →ₐ[R] B)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Algebraic.lean:152]:
```suggestion
theorem AlgHom.isAlgebraic_of_injective {B} [Ring B] [Algebra R B] {f : A →ₐ[R] B}
```

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 6]
```diff
@@ -401,7 +401,13 @@ instance isScalarTower_mid' : IsScalarTower K S L :=
   S.isScalarTower_mid
 #align intermediate_field.is_scalar_tower_mid' IntermediateField.isScalarTower_mid'
 
-/-- If `f : L →+* L'` fixes `K`, `S.map f` is the intermediate field between `L'` and `K`
+/-- If `f : L →+* L'` fixes `K`, `S.comap f` is the intermediate field between `K` and `L`
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/IntermediateField.lean:404]:
```suggestion
/-- If `(f : L →ₐ[K] L')`, `S.comap f` is the intermediate field between `K` and `L`
```
looks more readable. Similarly below.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean:603]: This can be a good idea, but let's keep it for another PR.

File: Mathlib/FieldTheory/NormalClosure.lean [hunk 7]
```diff
@@ -10,19 +10,32 @@ import Mathlib.Order.Closure
 #align_import field_theory.normal from "leanprover-community/mathlib"@"9fb8964792b4237dac6200193a0d533f1b3f7423"
 /-!
 # Normal closures
-The normal closure of a tower of fields `L/K/F` is the smallest intermediate field of `L/K` that
-contains the image of every `F`-algebra embedding `K →ₐ[F] L`.
-
-## Main Definitions
-- `normalClosure F K L` a tower of fields `L/K/F`.
+The normal closure `normalClosure F K L` of a field extension `K/F`
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalClosure.lean:13]: Can you add here a section "Main definitions" with `IsNormalClosure` and `normalClosure`? Thanks!

File: Mathlib/FieldTheory/NormalClosure.lean [hunk 8]
```diff
@@ -31,62 +44,135 @@ lemma normalClosure_def : normalClosure F K L = ⨆ f : K →ₐ[F] L, f.fieldRa
 
 variable {F K L}
 
+/-- A normal closure is always normal. -/
+lemma IsNormalClosure.normal [h : IsNormalClosure F K L] : Normal F L :=
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalClosure.lean:48]: Can this be an instance?

File: Mathlib/RingTheory/Algebraic.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Algebraic.lean]: I managed to sneak it in as [Algebra.IsAlgebraic.of_injective](https://github.com/leanprover-community/mathlib4/blob/05ad6c6d5e122ac4f6b3929b49039a0c1a646bab/Mathlib/RingTheory/Algebraic.lean#L162-L164) in #8406 😄 A common use case is `f := Subalgebra.val _` but `hf := Subtype.val_injective`, in which case Lean can't infer `f` from `hf`, so I'd like to keep it as is.

File: Mathlib/FieldTheory/NormalClosure.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/NormalClosure.lean:13]: I removed the "main definitions" section in favor of more prose-style exposition in which I explain the two main definitions, but I can also restore the stricter format.

File: Mathlib/FieldTheory/NormalClosure.lean (hunk 8 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/NormalClosure.lean:53]: Ah yes, of course.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
